US05244917
2-Amino-4-benzyl-3-cyano-5-hydroxynaphtho[1,2-b]furan
A mixture of potassium hydride (7.56 g, 63 mmol, 35% oil dispersion) and hexane (250ml) was stirred at room temperature under nitrogen. Solvent was decanted off and substituted with dry tetrahydrofuran (250ml). Malononitrile (4.16 g, 63 mmol), dissolved in tetrahydrofuran (50 ml), was then added to the slurry dropwise. A mixture of 2-benzyl-1,4-naphthoquinone (15.62 g, 63 mmol) and tetrahydrofuran (50 ml) was then added dropwise. The reaction mixture was set at reflux for 2h, allowed to cool to room temperature and quenched with methanol (50 ml). The mixture was poured into water (100 ml) and extracted into ethyl acetate (3 x 250 ml). The organic layer was dried (magnesium sulfate) and evaporated to an oil. Chromatography (silica gel: hexane/ethyl acetate (2 : 1) as eluant) of the oily residue afforded 7.48 g (23 mmol, 38%) of product as green crystals, m.p. 224°-225 ° C.; 1H NMR (d6DMSO): 4.5(s,2H), 7.1-7.6 (m, 7H), 7.9(d, 1H), 9.25(s, 1H); IR (nujol): 3460, 3310, 3240, 3190, 2220; High resolution mass spectrum: calculated 314.1055, measured 314.1061.

reactant | potassium hydride | 63 mmol, 7.56 g | [H-].[K+]
reactant | hexane | 250ml | CCCCCC | C6H14
reactant | Malononitrile | 63 mmol, 4.16 g | C(CC#N)#N | C3H2N2
reactant | 2-benzyl-1,4-naphthoquinone | 63 mmol, 15.62 g | C(C1=CC=CC=C1)C=1C(C2=CC=CC=C2C(C1)=O)=O | C17H12O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-Amino-4-benzyl-3-cyano-5-hydroxynaphtho[1,2-b]furan | 23 mmol, 7.48 g, 38% | NC1=C(C2=C(O1)C1=CC=CC=C1C(=C2CC2=CC=CC=C2)O)C#N | C20H14N2O2
